### PR TITLE
[Merged by Bors] - chore(Algebra): shorten proofs by omitting intermediate statements

### PR DESCRIPTION
**Pull request by LLaurance**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Exact.lean [hunk 1]
```diff
@@ -90,9 +90,7 @@ may not apply if the zero of `Set.range g` is not definitionally equal to `⟨0,
 lemma iff_rangeFactorization [One P] (hg : 1 ∈ Set.range g) :
     letI : One (Set.range g) := ⟨⟨1, hg⟩⟩
     MulExact f g ↔ MulExact ((↑) : Set.range f → N) (Set.rangeFactorization g) := by
-  letI : One (Set.range g) := ⟨⟨1, hg⟩⟩
-  have : ((1 : Set.range g) : P) = 1 := rfl
-  simp [MulExact, Set.rangeFactorization, Subtype.ext_iff, this]
+  simpa [MulExact, Set.rangeFactorization, Subtype.ext_iff] using by rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/Exact.lean]: I think you should revert this. I think having a tactic within `simpa` is brittle

Comment (LLaurance) [reply Mathlib/Algebra/Exact.lean]: Resolved https://github.com/leanprover-community/mathlib4/pull/37887/commits/6954085d531c377bd766525d5c2881a1df9c1838

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by grunweg — COMMENTED** [review]
Thanks!
bors merge
